US04167574
A mixture of 2.55 parts of 1,4-dihydro-1-(2-iodoethyl)-4-methyl-5H-tetrazol-5-one, 3.45 parts of N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide, 2 parts of sodium carbonate, 0.2 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, 100 parts of water are added and the layers are separated. The aqueous phase is extracted with dichloromethane. The combined organic phases are dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanone. The salt is filtered off and crystallized from 2-propanone, yielding 2.1 parts (42%) of N-{1-[2-(4,5-dihydro-4-methyl-5-oxo-1H-tetrazol-1-yl)ethyl]-4-(methoxymethyl)-4-piperidinyl}-N-phenylpropanamide ethanedioate (1:1); mp. 155.9° C.

reactant | 1,4-dihydro-1-(2-iodoethyl)-4-methyl-5H-tetrazol-5-one | ICCN1N=NN(C1=O)C | C4H7IN4O
reactant | N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C16H24N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-{1-[2-(4,5-dihydro-4-methyl-5-oxo-1H-tetrazol-1-yl)ethyl]-4-(methoxymethyl)-4-piperidinyl}-N-phenylpropanamide ethanedioate | 42% | C(C(=O)O)(=O)O.CN1N=NN(C1=O)CCN1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C20H30N6O3.C2H2O4/c1-4-18(27)26(17-8-6-5-7-9-17)20(16-29-3)10-12-24(13-11-20)14-15-25-19(28)23(2)21-22-25;3-1(4)2(5)6/h5-9H,4,10-16H2,1-3H3;(H,3,4)(H,5,6)
